US07893056B2
To a solution of racemic N,N,2,2-tetramethyl-1-(phenylmethyl)-3-pyrrolidinamine (0.5637 g, 2.426 mmol) in MeOH (24 mL) was added 1 N aq. HCl (4.9 ml) and 10% Pd/C (50% water, 113 mg). The mixture was hydrogenated overnight, and then filtered through a 0.2 μM membrane. The resulting solution was concentrated in vacuo. The residue was diluted with 1 N aq. NaOH (20 mL) and extracted with DCM (2×100 mL). The combined organic phase was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to afford crude, racemic N,N,2,2-tetramethyl-3-pyrrolidinamine (0.2930 g, 85% yield) as a pale yellow oil. LCMS: (M+H)+: 143.1.

reactant | racemic N,N,2,2-tetramethyl-1-(phenylmethyl)-3-pyrrolidinamine | 2.426 mmol, 0.5637 g | CN(C1C(N(CC1)CC1=CC=CC=C1)(C)C)C | C15H24N2
reactant | HCl | 1 N, 4.9 ml | Cl | ClH
solvent | MeOH | 24 mL | CO | CH4O
catalyst | Pd/C | 113 mg | [Pd] | Pd
product | racemic N,N,2,2-tetramethyl-3-pyrrolidinamine | 0.2930 g, 85% yield | CN(C1C(NCC1)(C)C)C | C8H18N2
